US07241760B2
3-[2-Methyl-1-(6-trifluoromethyl-pyridin-2-yl)-1H-imidazol-4-ylethynyl]-benzonitrile
The title compound, MS: m/e=353.1 (M+H+), was prepared in accordance with the general method of example 1 from 3-(2-methyl-1H-imidazol-4-ylethynyl)-benzonitrile and 2-fluoro-6-trifluoromethylpyridine.

reactant | 3-(2-methyl-1H-imidazol-4-ylethynyl)-benzonitrile | CC=1NC=C(N1)C#CC=1C=C(C#N)C=CC1 | C13H9N3
reactant | 2-fluoro-6-trifluoromethylpyridine | FC1=NC(=CC=C1)C(F)(F)F | C6H3F4N
product | 3-[2-Methyl-1-(6-trifluoromethyl-pyridin-2-yl)-1H-imidazol-4-ylethynyl]-benzonitrile | CC=1N(C=C(N1)C#CC=1C=C(C#N)C=CC1)C1=NC(=CC=C1)C(F)(F)F | C19H11F3N4
